US04042397
A mixture of N-cyclohexyl-N'-(2-fluorosulphonylphenyl) urea (300 g, 1 mole), malonic acid (156 g, 1 mole) and acetylchloride (427 ml, 6 moles) was refluxed for 4 hours with stirring, cooled to room temperature, poured into water (4.25 l) and stirred for 1 hour to decompose the excess of acetylchloride. Then the 1-cyclohexyl-3-(2-fluorosulphonylphenyl)barbituric acid formed was added with portions and with stirring to 1N ammoniumhydroxide (5 l, 5 moles). After the last addition, stirring was continued for still an hour. Some insoluble material was filtered off and the filtrate was carefully acidified with 6N sulphuric acid (835 ml) whilst cooling by the addition of crushed ice. After 1 hour the precipitate was collected, digested with water (2.5 l), filtered off and dried, yielding 180-270 g of a product containing 69-81% of the desired barbituric acid (by titration of the CH2), the remaining 19-31% consisting mainly of 1-cyclohexyl-2-acetyl-3-(2-sulphamoylphenyl)barbituric acid, as determined by TLC and NMR.

reactant | N-cyclohexyl-N'-(2-fluorosulphonylphenyl) urea | 1 mole, 300 g | C1(CCCCC1)NC(=O)NC1=C(C=CC=C1)S(=O)(=O)F | C13H17FN2O3S
reactant | malonic acid | 1 mole, 156 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetylchloride | 6 moles, 427 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | 4.25 l | O | H2O
product | 1-cyclohexyl-3-(2-fluorosulphonylphenyl)barbituric acid | C1(CCCCC1)N1C(=O)N(C(=O)CC1=O)C1=C(C=CC=C1)S(=O)(=O)F | C16H17FN2O5S
